US08076364B2
2,5-Dibromopyridine (4.74 g) is dissolved in toluene (100 ml) and thereto are added 3,5-bis-trifluoromethyl-benzylamine (5.84 g) and palladium acetate (449.0 mg), 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (1.25 g) and sodium tert-butoxide (4.23 g) and the mixture is stirred under nitrogen atmosphere at 80° C. for 12 hours. The reaction solution is cooled to room temperature, and thereto is added a saturated aqueous sodium bicarbonate solution and the mixture is extracted with ethyl acetate twice, and the organic layer is washed successively with water and a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=19:1→4:1) to give (3,5-bis-trifluoromethyl-benzyl)-(5-bromopyridin-2-yl)-amine (2.08 g). MS (m/z): 399/401 [M+H]+

reactant | 2,5-Dibromopyridine | 4.74 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | 3,5-bis-trifluoromethyl-benzylamine | 5.84 g | FC(C=1C=C(CN)C=C(C1)C(F)(F)F)(F)F | C9H7F6N
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 1.25 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | sodium tert-butoxide | 4.23 g | CC(C)([O-])C.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 449.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (3,5-bis-trifluoromethyl-benzyl)-(5-bromopyridin-2-yl)-amine | 2.08 g | FC(C=1C=C(CNC2=NC=C(C=C2)Br)C=C(C1)C(F)(F)F)(F)F | C14H9BrF6N2
